US09359359B2
A solution of 7-(4-chlorobenzyl)-3-methyl-8-(6-methylpyridin-3-yloxy)-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione (79 mg, 0.146 mmol) in 1N ethanolic HCl (3 mL) was stirred at room temperature for 2 h. The mixture was concentrated to dryness to give a crude product, which was purified via preparative HPLC to give 7-(4-chlorobenzyl)-1-(3-hydroxypropyl)-3-methyl-8-(6-methylpyridin-3-yloxy)-1H-purine-2,6(3H,7H)-dione (35 mg, 52.6% yield) as white solid. 1H-NMR (DMSO-d6) δ 8.69(s, 1H), 8.03-8.01(d, 1H), 7.59-7.57(d, 1H), 7.45(s, 4H), 5.45(s, 2H), 4.06-3.98(m, 2H), 3.45-3.42(t, 2H), 3.28(s, 3H), 2.59(s, 3H), 1.71-1.67(t, 2H). LCMS retention time 2.207 min; LCMS MH+ 456.

reactant | 7-(4-chlorobenzyl)-3-methyl-8-(6-methylpyridin-3-yloxy)-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione | 0.146 mmol, 79 mg | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCOC2OCCCC2)=O)C)OC=2C=NC(=CC2)C)C=C1 | C27H30ClN5O5
solvent | HCl | 1N, 3 mL | Cl | ClH
product | 7-(4-chlorobenzyl)-1-(3-hydroxypropyl)-3-methyl-8-(6-methylpyridin-3-yloxy)-1H-purine-2,6(3H,7H)-dione | 35 mg, 52.6% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCO)=O)C)OC=2C=NC(=CC2)C)C=C1 | C22H22ClN5O4
